US08895566B2
Triethyloxonium hexafluorophosphate (3.20 g, 28.0 mmol) was added to a solution of tert-butyl 3-oxopiperazine-1-carboxylate (2.54 g, 12.7 mmol) in CH2CL2 (31.7 mL) at 0° C., and the resulting solution was stirred at room temperature for 18 hours. The reaction mixture was washed with saturated NaHCO3, dried (Na2SO4), and concentrated to give tert-butyl 3-ethoxy-5,6-dihydropyrazine-1(2H)-carboxylate as an oil. LCMS (APCI+) M+H-t-Bu: 173 (40%); rt=3.14 minutes.

reactant | Triethyloxonium hexafluorophosphate | 28.0 mmol, 3.20 g | F[P-](F)(F)(F)(F)F.C(C)[O+](CC)CC
reactant | tert-butyl 3-oxopiperazine-1-carboxylate | 12.7 mmol, 2.54 g | O=C1CN(CCN1)C(=O)OC(C)(C)C | C9H16N2O3
product | tert-butyl 3-ethoxy-5,6-dihydropyrazine-1(2H)-carboxylate | C(C)OC=1CN(CCN1)C(=O)OC(C)(C)C | C11H20N2O3
